### PR TITLE
Change `arrayLen` builtin to handle slices as well

### PR DESCRIPTION
**Pull request by mpenciak**
This PR addresses #197 by adding a single `arrayLen` builtin that handles both slices and arrays.

### CODE REVIEW

File: Lampe/Lampe/Hoare/Builtins.lean [hunk 1]
```diff
@@ -160,9 +160,34 @@ theorem arrayIndex_intro : STHoarePureBuiltin p Γ Builtin.arrayIndex (by tauto)
...
+  apply Omni.callBuiltin
+  apply Builtin.arrayLenOmni.mkArray
+  unfold mapToValHeapCondition
+  simp
+  rw [SLP.true_star] at Q
+  refine ⟨st, ∅, ?_⟩
+  simp only [LawfulHeap.disjoint_empty, LawfulHeap.union_empty, SLP.apply_top, and_true, true_and]
+  assumption
+
+theorem slice_arrayLen_intro (hLen : x.length < 2^32) : STHoare p Γ ⟦⟧ (.callBuiltin [Tp.slice tp] (Tp.u 32) Builtin.arrayLen h![x])
```
[the remark this answers is not in the document]
Comment (mpenciak) [reply Lampe/Lampe/Hoare/Builtins.lean]: Changing the shape of the intro theorems was a bit tricky with how the builtin was originally defined, so I switched it up and I think the intro theorems look good now.

File: Lampe/Lampe/Builtin/Basic.lean [hunk 2]
```diff
@@ -188,4 +188,28 @@ def fresh : Builtin := {
     tauto
 }
 
+inductive ArrayLenCase where
+| slice (tp : Tp)
+| array (tp : Tp) (N : U 32)
+
+def arrayLenSgn : ArrayLenCase → List Tp × Tp
```
Comment (iamrecursion) [inline Lampe/Lampe/Builtin/Basic.lean:195]: This name doesn't make much sense to me. As far as I'm aware "sgn" tends to refer to "sign"?

File: Lampe/Lampe/Hoare/Builtins.lean [hunk 3]
```diff
@@ -160,9 +160,21 @@ theorem arrayIndex_intro : STHoarePureBuiltin p Γ Builtin.arrayIndex (by tauto)
...
-  apply pureBuiltin_intro_consequence <;> try tauto
-  tauto
+theorem array_arrayLen_intro : STHoare p Γ ⟦⟧ (.callBuiltin [Tp.array tp N] (Tp.u 32) Builtin.arrayLen h![x])
+    fun v => v = x.length := by
+  apply pureBuiltin_intro_consequence (sgn := Builtin.arrayLenSgn) (desc := Builtin.arrayLenDesc) rfl rfl ?_
+    (a := Builtin.ArrayLenCase.array tp N)
+  intro h
+  simp [Builtin.arrayLenDesc]
+
+theorem slice_arrayLen_intro : STHoare p Γ ⟦⟧ (.callBuiltin [Tp.slice tp] (Tp.u 32) Builtin.arrayLen h![x])
```
Comment (iamrecursion) [inline Lampe/Lampe/Hoare/Builtins.lean:170]: Should this not go down where `sliceLen_intro` was before?
